US04276226
1,3-Bis(3,5-dimethyl-4-hydroxybenzoyl)benzene
Isophthalic acid (66 g, 0.40 mole) and 2,6-dimethylphenol (96 g, 0.80 mole) were charged to a one-liter Hastalloy C® shaker tube. The tube was cooled and hydrogen fluoride (400 g) was condensed in. The tube was then warmed to room temperature and pressured to 50 psig with boron trifluoride. The tube was then warmed to 50° C. and shaken 4 hr at 50° C. After being cooled and vented, the tube was discharged of its contents which was a dark red solution. This solution was allowed to evaporate in the hood. The dark red solid which resulted was stirred in 2 l. of water, heated to boiling, and the solid was isolated by filtration of the hot slurry. The precipitate was stirred in 2 l. of water, heated to boiling, and neutralized with sodium bicarbonate. Filtration of the hot slurry and air drying of the precipitate afforded the title product as a salmon-colored powder with an i.r. spectrum identical with that of the analytical sample. The yield was 136.5 g (91%).

reactant | Isophthalic acid | 0.40 mole, 66 g | C(C1=CC(C(=O)O)=CC=C1)(=O)O | C8H6O4
reactant | 2,6-dimethylphenol | 0.80 mole, 96 g | CC1=C(C(=CC=C1)C)O | C8H10O
reactant | hydrogen fluoride | 400 g | F | FH
reactant | boron trifluoride | B(F)(F)F | BF3
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | water | O | H2O
product | 1,3-Bis(3,5-dimethyl-4-hydroxybenzoyl)benzene | CC=1C=C(C(=O)C2=CC(=CC=C2)C(C2=CC(=C(C(=C2)C)O)C)=O)C=C(C1O)C | C24H22O4
